US05273994
N-{2-[N-n-propyl-N-(5-methoxychromanyl)amino]ethyl}isobutyramide
By replacing 3-amino-5-methoxychroman in the above examples by 3-amino-6-methoxychroman, 3-amino-7-methoxychroman or 3-amino-8-methoxychroman, respectively, or by replacing 3-amino-5-methoxy-3,4-dihydro-2H-1-benzothiopyran by 3-amino-6-methoxy-3,4-dihydro-2H-1-benzothiopyran, by 3-amino-7-methoxychroman or 3-amino-8-methoxychroman, the isomers of Examples Nos. 1 to 56 methoxylated at 6-, 7- or 8-position, respectively, are obtained.

reactant | 3-amino-6-methoxychroman | NC1COC2=CC=C(C=C2C1)OC | C10H13NO2
reactant | 3-amino-7-methoxychroman | NC1COC2=CC(=CC=C2C1)OC | C10H13NO2
reactant | 3-amino-8-methoxychroman | NC1COC2=C(C=CC=C2C1)OC | C10H13NO2
reactant | 3-amino-5-methoxy-3,4-dihydro-2H-1-benzothiopyran | NC1CSC2=C(C1)C(=CC=C2)OC | C10H13NOS
reactant | 3-amino-6-methoxy-3,4-dihydro-2H-1-benzothiopyran | NC1CSC2=C(C1)C=C(C=C2)OC | C10H13NOS
product | N-{2-[N-n-propyl-N-(5-methoxychromanyl)amino]ethyl}isobutyramide | C(CC)N(C1OC2=CC=CC(=C2CC1)OC)CCNC(C(C)C)=O | C19H30N2O3
